US06737425B1
114-2) Ethyl 4-Cyano-5-methyl-4-(2-thienyl)hexanoate
3-Methyl-2-(2-thienyl)butane nitrile 5.56 g 33.6 mmol and ethyl acrylate 4.00 ml 37.0 mmol were dissolved in tetrahydrofuran 100 ml. Potassium t-butoxide, 566 mg 5.04 mmol, was added little by little thereto at room temperature. Generation of heat continued during this step. After stirring for 1 hour, brine 100 ml and aqueous saturated ammonium chloride 150 ml were added thereto successively, and the mixture was extracted with ether 1 L. The organic layer was washed with brine 500 ml and water 500 ml successively, dried over magnesium sulfate anhydride and evaporated. The residue was purified by silica gel column chromatography (ethyl acetate/hexane system), whereby the title compound (5.57 g 21.0 mmol, 62.5%) was obtained as a yellow oil.

reactant | 3-Methyl-2-(2-thienyl)butane nitrile | 33.6 mmol, 5.56 g | CC(C(C#N)C=1SC=CC1)C | C9H11NS
reactant | ethyl acrylate | 37.0 mmol, 4.00 ml | C(C=C)(=O)OCC | C5H8O2
reactant | Potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | brine | 100 ml | [Cl-].[Na+].O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | Ethyl 4-Cyano-5-methyl-4-(2-thienyl)hexanoate | 21.0 mmol, 5.57 g, 62.5% | C(#N)C(CCC(=O)OCC)(C(C)C)C=1SC=CC1 | C14H19NO2S
